US07732460B2
(a) 7-bromo-2,3-dihydro-1-benzofuran-5-carbaldehyde
To a solution of 2,3-dihydro-1-benzofuran-5-carbaldehyde (1.0 g, 6.75 mmol) in glacial acetic acid (8 ml) was added sodium acetate (664 mg, 8.1 mmol) and bromine (0.7 ml, 13.5 mmol) at 10° C. slowly. The reaction was stirred for 2 h at room temperature. The reaction was diluted with a saturated aqueous solution of sodium thiosulfate (10 ml), washed with a saturated aqueous solution of sodium bicarbonate, and then extracted with ethyl acetate. Organics were combined, dried over sodium sulfate and dried in vacuo to give the desired compound (1.4 g, 91%).

reactant | 2,3-dihydro-1-benzofuran-5-carbaldehyde | 6.75 mmol, 1.0 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | sodium acetate | 8.1 mmol, 664 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 13.5 mmol, 0.7 ml | BrBr | Br2
solvent | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
solvent | sodium thiosulfate | 10 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 7-bromo-2,3-dihydro-1-benzofuran-5-carbaldehyde | 1.4 g, 91% | BrC1=CC(=CC=2CCOC21)C=O | C9H7BrO2
